US06140051
Synthesis of 2-Methyl-6-acetoxyethylbenzothiazole:
K3Fe(CN)6 (7.6 g, 23.1 mmol) was dissolved in water (18 ml) and then mixed with 50 ml 2% NaOH aqueous solution. 4-Thioacetamidophenethyl acetate (1.0 g, 4.1 mmol) was dissolved in dichloromethane (50 ml) and then added to the K3Fe(CN)6 solution. The reaction mixture was stirred at room temperature for 1 hr. The organic layer was separated by a separatory funnel, washed with water, and then dried over anhydrous sodium sulfate. The dried solution was concentrated and then purified by flash silica gel chromatography. Yield: 0.6 g (61%).

reactant | NaOH | 50 ml | [OH-].[Na+]
reactant | 4-Thioacetamidophenethyl acetate | 4.1 mmol, 1.0 g | C(C)(=O)OCCC1=CC=C(C=C1)NC(C)=S | C12H15NO2S
solvent | water | 18 ml | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-Methyl-6-acetoxyethylbenzothiazole | CC=1SC2=C(N1)C=CC(=C2)CCOC(C)=O | C12H13NO2S
